US05691376
3-Cyclopentyloxy-4-methoxybromobenzene
Cyclopentyl bromide (37 mL, 0.345 mol) was added to a slurry of the phenol (50 g, 0.246 mol) and potassium carbonate (17 g, 0.123 mol) in acetonitrile (500 mL) at reflux temperature. After two hours, cyclopentyl bromide (13.2 mL, 0.123 mol) and potassium carbonate (8.5 g, 0.062 mol) were added to complete the reaction (1 hour). Reaction pro gress was monitored by TLC (50% ethyl ether in hexane). The suspension was filtered. The filtered material was washed with ethyl acetate (2×100 mL). The filtrates were combined, concentrated and distilled under vacuum (0.1 mm, 140° C.-145° C.) to yield 65.62 g (0.242 mol, 98%) of product.

reactant | Cyclopentyl bromide | 0.345 mol, 37 mL | C1(CCCC1)Br | C5H9Br
reactant | phenol | 0.246 mol, 50 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.123 mol, 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopentyl bromide | 0.123 mol, 13.2 mL | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | 0.062 mol, 8.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | hexane | CCCCCC | C6H14
product | 3-Cyclopentyloxy-4-methoxybromobenzene | 0.242 mol, 65.62 g, 98% | C1(CCCC1)OC=1C=C(C=CC1OC)Br | C12H15BrO2
